US04906628
5-(4-nitrophenyl)-1,3,4-oxadiazol-2(3H)-one, (0.65 g) in ethanol (100 ml) was hydrogenated at 276 kPa (40 p.s.i.) in the presence of palladium on carbon at room temperature for one hour. The reaction mixture was filtered, the filtrate was evaporated to dryness and the resultant yellow solid was recrystallised from ethanol to afford (5-(4-aminophenyl)-1,3,4-oxadiazol-2(3H)-one, 0.46 g, m.p. 172°-173° C.

reactant | 5-(4-nitrophenyl)-1,3,4-oxadiazol-2(3H)-one | 0.65 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC(O1)=O | C8H5N3O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-(4-aminophenyl)-1,3,4-oxadiazol-2(3H)-one | NC1=CC=C(C=C1)C1=NNC(O1)=O | C8H7N3O2
